US05985901
Step 2I (S)-1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-(2-(3,5-dimethylphenyl)-3-{1-methyl-2-[2-(4-[1,2,4]triazol-4-yl-phenyl)ethylamino]ethyl}-1H-indol-5-yl)-2-methyl-propan-1-one
To a solution of (S)-N-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]propyl}-2,4-dinitro-N-[2-(4-[1,2,4]triazol-4-yl-phenyl)ethyl]benzenesulfonamide (0.246 g in 5.5 mL dry methylene chloride) was added 0.72 mL of n-propylamine and the mixture stirred at room temperature. After 35 minutes the volatiles were removed in vacuo and the concentrate purified by flash chromatography on silica gel (methylene chloride:methanol, 90:10; then 85:15) to give the title compound (0.180 g). MASS: 615 (M+H)

reactant | (S)-N-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]propyl}-2,4-dinitro-N-[2-(4-[1,2,4]triazol-4-yl-phenyl)ethyl]benzenesulfonamide | 5.5 mL, 0.246 g | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)[C@@H](CN(S(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])CCC2=CC=C(C=C2)N2C=NN=C2)C)=O | C45H48N8O7S
reactant | n-propylamine | 0.72 mL | C(CC)N | C3H9N
product | (S)-1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-(2-(3,5-dimethylphenyl)-3-{1-methyl-2-[2-(4-[1,2,4]triazol-4-yl-phenyl)ethylamino]ethyl}-1H-indol-5-yl)-2-methyl-propan-1-one | 0.180 g | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)[C@@H](CNCCC2=CC=C(C=C2)N2C=NN=C2)C)=O | C39H46N6O
